*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
.include ../../../ciceda/models/ptm_130_ngspice.spi
.include ../../../ciceda/lib/SUN_TR_GF130N.spi
.include ../../../ciceda/lib/SUN_TRIO_GF130N.spi

*----------------------------------------------------------------
* Options
*----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-6 abstol=1e-6

*----------------------------------------------------------------
* Sources
*----------------------------------------------------------------
VDD VDD VSS dc 1.5
VSS VSS 0 dc 0
V1 VDATA0 VSS PULSE(0, 1.5, 5u, 1n, 1n, 5u, 10u, 0) dc 0
V2 VDATA1 VSS PULSE(0, 1.5, 10u, 1n, 1n, 10u, 20u, 0) dc 0
V3 VDATA2 VSS PULSE(0, 1.5, 20u, 1n, 1n, 20u, 40u, 0) dc 0
V4 VDATA3 VSS PULSE(0, 1.5, 40u, 1n, 1n, 40u, 80u, 0) dc 0
V5 VDATA4 VSS PULSE(0, 1.5, 80u, 1n, 1n, 80u, 160u, 0) dc 0
V6 VDATA5 VSS PULSE(0, 1.5, 160u, 1n, 1n, 160u, 320u, 0) dc 0
V7 VDATA6 VSS PULSE(0, 1.5, 320u, 1n, 1n, 320u, 640u, 0) dc 0
V8 VDATA7 VSS PULSE(0, 1.5, 640u, 1n, 1n, 640u, 1280u, 0) dc 0

*----------------------------------------------------------------
* DUT
*----------------------------------------------------------------
.include gray_encoder.cir
.include xor.cir
X1 VDATA0 VDATA1 VDATA2 VDATA3 VDATA4 VDATA5 VDATA6 VDATA7 VOUT0 VOUT1 VOUT2 VOUT3 VOUT4 VOUT5 VOUT6 VOUT7 VDD VSS GRAY

.control
set color0=white
set color1=black
tran 1n 700u
wrdata ../output/tb_counter_b.txt V(VDATA0) V(VDATA1) V(VDATA2) V(VDATA3) V(VDATA4) V(VDATA5) V(VDATA6) V(VDATA7)
wrdata ../output/tb_counter_g.txt V(VOUT0) V(VOUT1) V(VOUT2) V(VOUT3) V(VOUT4) V(VOUT5) V(VOUT6) V(VOUT7)
.endc
.end